* source EXE3
C_C1         0 N00158  2u   
L_L1         N00158 N00131  2  
R_R1         N00131 N00097  140  
V_V3         N00097 0 DC 0Vdc AC 100 
